US05397439
1,4-BG is useful as a raw material for e.g. polyester or tetrahydrofuran. Some methods for producing 1,4-BG are known, and one of which comprises acetoxylating butadiene with acetic acid and oxygen to form 1,4-diacetoxybutene, hydrogenating the 1,4-diacetoxybutene to form 1,4-diacetoxybutane and then hydrolyzing the 1,4-diacetoxybutane to obtain 1,4-BG. A purified 1,4-BG is recovered from the hydrolysis product by multi-step distillations. One of which comprises supplying the hydrolysis product to a first distillation column, distilling off substantially all the amounts of water and acetic acid from the top of the column, supplying the bottom liquid to a second distillation column, distilling off an unreacted substance from the top of the second distillation column, circulating the distillate to a hydrolysis step, while distilling the bottom liquid from the second distillation column in a third distillation column to obtain 1,4-BG as a product (Japanese Patent Laid Open No. 19610/1977).

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | butadiene | C=CC=C | C4H6
reactant | oxygen | O=O | O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1,4-diacetoxybutene | C(C)(=O)OC=CCCOC(C)=O | C8H12O4
